US07700625B2
n-Butyl lithium (2.5M in hexanes, 38.5 ml, 100.0 mmol) was added dropwise under a nitrogen atomosphere to a stirred solution of 4-ethylanisole (11.7 g, 86.0 mmol) and N,N,N′,N′-tetramethylethylenediamine (10 ml, 88.0 mmol) in anhydrous diethyl ether (100 ml) and the mixture was stirred and held at 30° C. for 16 hours. The mixture was cooled and poured slowly in to a mixture of excess solid carbon dioxide in anhydrous diethyl ether. Upon warming to room temperature the mixture was made basic by the addition of 2M sodium hydroxide, the aqueous layer was separated and acidified to pH 2 or below by the addition of concentrated hydrochloric acid. The mixture was extracted with diethyl ether, the organic layer separated and the solvent removed in vacuo to afford 5-ethyl-2-methoxybenzoic acid (5.7 g, 37%) as a pale yellow oil. 1H NMR (DMSO-d6) 12.50 (1H, br s), 7.48 (1H, d), 7.33 (1H, dd), 7.03 (1H, d), 2.56 (2H, q), 1.17 (3H, q). MS: [M+H]− 181.

reactant | n-Butyl lithium | 100.0 mmol, 2.5M, 38.5 ml | C(CCC)[Li]
reactant | 4-ethylanisole | 86.0 mmol, 11.7 g | C(C)C1=CC=C(C=C1)OC | C9H12O
reactant | N,N,N′,N′-tetramethylethylenediamine | 88.0 mmol, 10 ml | CN(CCN(C)C)C | C6H16N2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 5-ethyl-2-methoxybenzoic acid | 5.7 g, 37% | C(C)C=1C=CC(=C(C(=O)O)C1)OC | C10H12O3
